US04659708
A. N-(6-Methoxy-4-methyl-8-quinolinyl)-3,5-dimethyl-1-piperazine-hexanamide
A mixture of 5.5 g (0.015 mole ) of 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide and 3.4 g (0.03 mole) of 2,6-dimethylpiperazine in 80 ml of benzene was heated under reflux for 21 hr, treated with 2 ml of triethylamine, and heated for an additional 4 hr. The mixture was allowed to cool, diluted with water and toluene, and made strongly basic with 50% sodium hydroxide solution. The organic layer was washed, dried and concentrated to dryness in vacuo. Recrystallization from hexane containing a little toluene afforded 5 g (83%) of the title compound, mp 94°-96°.

reactant | 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide | 0.015 mole, 5.5 g | BrCCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C17H21BrN2O2
reactant | 2,6-dimethylpiperazine | 0.03 mole, 3.4 g | CC1NC(CNC1)C | C6H14N2
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(6-Methoxy-4-methyl-8-quinolinyl)-3,5-dimethyl-1-piperazine-hexanamide | 5 g, 83% | COC=1C=C2C(=CC=NC2=C(C1)NC(CCCCCN1CC(NC(C1)C)C)=O)C | C23H34N4O2
